*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 3.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_0 1 2 3 4 REF
C_C1 1 REF 0.4680148509624pf
C_C2 1 2 16.886468581697pf
C_C3 1 3 0.0284713218562pf
C_C4 1 4 0.232249311093pf
C_C5 2 REF 1.2365759107874pf
C_C6 2 3 0.119204721794pf
C_C7 3 REF 0.5721985404411pf
C_C8 3 4 5.3723530047663pf
C_C9 4 REF 0.5747519685776pf
L_L1 3 5 1.2967065072034nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_1 1 2 3 4 REF
C_C1 1 REF 0.4117531777307pf
C_C2 1 2 17.281693353665pf
C_C3 1 3 0.0264786346285pf
C_C4 1 4 0.2360739877062pf
C_C5 2 REF 1.0983410894366pf
C_C6 2 3 0.1201458319224pf
C_C7 3 REF 0.5733000886404pf
C_C8 3 4 3.978577365515pf
C_C9 4 REF 0.574267722645pf
L_L1 3 5 1.2978269631929nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_2 1 2 3 4 REF
C_C1 1 REF 0.3679326375277pf
C_C2 1 2 17.717023621581pf
C_C3 1 3 0.0244283446346pf
C_C4 1 4 0.2404589897192pf
C_C5 2 REF 0.9805040552859pf
C_C6 2 3 0.1211480038242pf
C_C7 3 REF 0.5743926355029pf
C_C8 3 4 3.0035073527357pf
C_C9 4 REF 0.5740200436104pf
L_L1 3 5 1.2987612523689nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_3 1 2 3 4 REF
C_C1 1 REF 0.3294438261118pf
C_C2 1 2 18.311734830371pf
C_C3 1 3 0.0218034313131pf
C_C4 1 4 0.2467133541261pf
C_C5 2 REF 0.8613428031236pf
C_C6 2 3 0.122530683226pf
C_C7 3 REF 0.5756849656144pf
C_C8 3 4 2.1626298599574pf
C_C9 4 REF 0.5739269989948pf
L_L1 3 5 1.2997081291914nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_4 1 2 3 4 REF
C_C1 1 REF 0.3018397830917pf
C_C2 1 2 19.078721151958pf
C_C3 1 3 0.0186284502236pf
C_C4 1 4 0.255119935086pf
C_C5 2 REF 0.7538218806613pf
C_C6 2 3 0.1243880497457pf
C_C7 3 REF 0.5770568173002pf
C_C8 3 4 1.4869588726707pf
C_C9 4 REF 0.5739758533052pf
L_L1 3 5 1.3006561301843nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_5 1 2 3 4 REF
C_C1 1 REF 0.2891264526677pf
C_C2 1 2 19.911278971213pf
C_C3 1 3 0.0153897726701pf
C_C4 1 4 0.2645732598653pf
C_C5 2 REF 0.6778946726853pf
C_C6 2 3 0.1265239952689pf
C_C7 3 REF 0.5782096975582pf
C_C8 3 4 1.0384254958134pf
C_C9 4 REF 0.5740970340735pf
L_L1 3 5 1.3014233887868nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_6 1 2 3 4 REF
C_C1 1 REF 0.2859899472207pf
C_C2 1 2 20.815323477181pf
C_C3 1 3 0.012049380859pf
C_C4 1 4 0.2750884265691pf
C_C5 2 REF 0.6265081100129pf
C_C6 2 3 0.128980697495pf
C_C7 3 REF 0.5791410679948pf
C_C8 3 4 0.730122512398pf
C_C9 4 REF 0.5742271656561pf
L_L1 3 5 1.3020549315186nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_7 1 2 3 4 REF
C_C1 1 REF 0.2890062411032pf
C_C2 1 2 21.981240278662pf
C_C3 1 4 0.2888581100628pf
C_C4 2 REF 0.5903641508089pf
C_C5 2 3 0.1323346019247pf
C_C6 3 REF 0.579965343929pf
C_C7 3 4 0.4830830091775pf
C_C8 4 REF 0.5743555712475pf
L_L1 3 5 1.3026519764996nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_8 1 2 3 4 REF
C_C1 1 REF 0.2952090764977pf
C_C2 1 2 23.465214282077pf
C_C3 1 4 0.3064911309441pf
C_C4 2 REF 0.5713871463405pf
C_C5 2 3 0.1368300710665pf
C_C6 3 REF 0.5806138144723pf
C_C7 3 4 0.2918724606448pf
C_C8 4 REF 0.5744650609191pf
L_L1 3 5 1.3032169636395nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_9 1 2 3 4 REF
C_C1 1 REF 0.3002658519202pf
C_C2 1 2 25.39663798951pf
C_C3 1 4 0.3293770100899pf
C_C4 2 REF 0.5710281676601pf
C_C5 2 3 0.1429676361993pf
C_C6 3 REF 0.5810317288521pf
C_C7 3 4 0.1499635432628pf
C_C8 4 REF 0.5745605850791pf
L_L1 1 5 91.024118210613nh
R_RL1 5 2 8.1553582050969
L_L2 3 6 1.3037046852758nh
R_RL2 6 4 -1.080491938e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_10 1 2 3 4 REF
C_C1 1 REF 0.298998497401pf
C_C2 1 2 27.920753689395pf
C_C3 1 4 0.3589843130589pf
C_C4 2 REF 0.5882597962622pf
C_C5 2 3 0.1513043759306pf
C_C6 3 REF 0.5812060578412pf
C_C7 3 4 0.0463425712626pf
C_C8 4 REF 0.5746720862077pf
L_L1 1 5 57.041259308282nh
R_RL1 5 2 4.7310280920092
L_L2 3 6 1.3041121416816nh
R_RL2 6 4 -1.162221906e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_11 1 2 3 4 REF
C_C1 1 REF 0.2856259191244pf
C_C2 1 2 31.348962359098pf
C_C3 1 4 0.3985815160035pf
C_C4 2 REF 0.6232040038445pf
C_C5 2 3 0.1629924589546pf
C_C6 3 REF 0.5811313064903pf
C_C7 4 REF 0.5748505230469pf
L_L1 1 5 35.482483637633nh
R_RL1 5 2 2.2167324046281
L_L2 3 6 1.3042443040241nh
R_RL2 6 4 -1.164796186e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_12 1 2 3 4 REF
C_C1 1 REF 0.2551456552376pf
C_C2 1 2 36.11685492622pf
C_C3 1 4 0.4527528874844pf
C_C4 2 REF 0.675631676038pf
C_C5 2 3 0.1796243872286pf
C_C6 3 REF 0.5808296041679pf
C_C7 4 REF 0.5751528839525pf
L_L1 1 5 21.638580070916nh
R_RL1 5 2 0.7655940085069
L_L2 3 6 1.3040060122641nh
R_RL2 6 4 -1.078598052e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_13 1 2 3 4 REF
C_C1 1 REF 0.2002964075964pf
C_C2 1 2 43.18905208194pf
C_C3 1 4 0.5318863898533pf
C_C4 2 REF 0.7494706959331pf
C_C5 2 3 0.2046851493823pf
C_C6 3 REF 0.5803066965996pf
C_C7 4 REF 0.5756595440179pf
L_L1 1 5 12.814000018746nh
R_RL1 5 2 0.1639566224094
L_L2 3 6 1.3035663047055nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_14 1 2 3 4 REF
C_C1 1 REF 0.1103340801783pf
C_C2 1 2 54.305893478284pf
C_C3 1 4 0.6549024803041pf
C_C4 2 REF 0.8539219686476pf
C_C5 2 3 0.2444122229776pf
C_C6 3 REF 0.5795596829932pf
C_C7 4 REF 0.5764875850932pf
L_L1 1 5 7.2998490856993nh
R_RL1 5 2 0.1204302868737
L_L2 3 6 1.3028622041594nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_15 1 2 3 4 REF
C_C1 1 2 74.005900862334pf
C_C2 1 4 0.8714237851992pf
C_C3 2 REF 1.0191017843803pf
C_C4 2 3 0.3150348894925pf
C_C5 3 REF 0.578500444184pf
C_C6 4 REF 0.57795595928pf
R_R1 1 2 368.55112507094
L_L1 1 5 3.76393145891nh
R_RL1 5 2 -0.324072873674
L_L2 3 6 1.301578684638nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_16 1 2 3 4 REF
C_C1 1 2 118.85848734082pf
C_C2 1 4 1.3629604029125pf
C_C3 2 REF 1.3645008726075pf
C_C4 2 3 0.4758015861516pf
C_C5 3 REF 0.5766879792128pf
C_C6 4 REF 0.5813226686478pf
R_R1 1 2 120.28584925768
L_L1 1 5 1.5806374758375nh
R_RL1 5 2 -0.160773924451
L_L2 1 6 67.904271794156nh
R_RL2 6 3 -0.214829061896
L_L3 1 7 67.161315075814nh
R_RL3 7 4 -0.215404909945
L_L4 2 8 67.997093808598nh
R_RL4 8 3 0.019779903897
L_L5 2 9 67.257021468033nh
R_RL5 9 4 0.0194131165918
L_L6 3 10 1.2987309794036nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0718049504009
Kn_K2 L_L1 L_L3 0.0720610473004
Kn_K3 L_L1 L_L4 -0.080709358447
Kn_K4 L_L1 L_L5 -0.081292066184
Kn_K5 L_L2 L_L3 0.9903994258128
Kn_K6 L_L2 L_L4 0.9883694609078
Kn_K7 L_L2 L_L5 0.9786866784632
Kn_K8 L_L2 L_L6 -0.108705412431
Kn_K9 L_L3 L_L4 0.9787363958866
Kn_K10 L_L3 L_L5 0.9882411593132
Kn_K11 L_L3 L_L6 0.0297542658114
Kn_K12 L_L4 L_L5 0.9904126714366
Kn_K13 L_L4 L_L6 -0.108477723031
Kn_K14 L_L5 L_L6 0.0298873980706
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_17 1 2 3 4 REF
C_C1 1 2 272.65611058994pf
C_C2 1 4 3.0474316624814pf
C_C3 2 REF 2.5007096427148pf
C_C4 2 3 1.0265013555334pf
C_C5 3 REF 0.5719533665839pf
C_C6 4 REF 0.5932364084284pf
R_R1 1 2 27.412222138952
L_L1 1 5 55.714218109218nh
R_RL1 5 REF -1.671597339059
L_L2 1 6 0.4685399019702nh
R_RL2 6 2 -0.073730468687
L_L3 1 7 23.35259117463nh
R_RL3 7 3 -0.072411039032
L_L4 1 8 22.659963962269nh
R_RL4 8 4 -0.073488667527
L_L5 2 9 55.360655408847nh
R_RL5 9 REF -1.523162675536
L_L6 2 10 23.431770034776nh
R_RL6 10 3 0.0046037459215
L_L7 2 11 22.743085780787nh
R_RL7 11 4 0.0044291546142
L_L8 3 12 78.506675894539nh
R_RL8 12 REF -1.562313203912
L_L9 3 13 1.2891380065837nh
R_RL9 13 4 1.0e-5
L_L10 4 14 77.804578244306nh
R_RL10 14 REF -1.560758172317
Kn_K1 L_L1 L_L2 0.080452531879
Kn_K2 L_L1 L_L5 0.9957868098932
Kn_K3 L_L1 L_L8 0.8381873250982
Kn_K4 L_L1 L_L10 0.8418887535717
Kn_K5 L_L2 L_L3 0.058854770464
Kn_K6 L_L2 L_L4 0.0591424339089
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082651698521
Kn_K9 L_L2 L_L7 -0.084497696156
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9720930486057
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9899865348435
Kn_K15 L_L3 L_L7 0.9618674711844
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.180594683872
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.962086096266
Kn_K21 L_L4 L_L7 0.9896820895992
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0551834689339
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8375775747651
Kn_K26 L_L5 L_L10 0.8412459897248
Kn_K27 L_L6 L_L7 0.9721895223352
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.179930592667
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0554466314646
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0989668310197
Kn_K35 L_L8 L_L10 0.9917627543787
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_18 1 2 3 4 REF
C_C1 1 2 3710.3807409986pf
C_C2 1 4 40.648801243386pf
C_C3 2 REF 27.933597013343pf
C_C4 2 3 13.39199014956pf
C_C5 3 REF 0.4798703657688pf
C_C6 4 REF 0.8708636717751pf
R_R1 1 REF -56.01982893306
R_R2 1 2 0.3059992499494
R_R3 1 3 -97.03726909444
R_R4 1 4 26.933031550987
R_R5 2 REF 56.119539001868
R_R6 2 3 97.340050637759
R_R7 2 4 -27.00481595067
L_L1 1 5 2.6099277980354nh
R_RL1 5 REF -6.41414012e-3
L_L2 1 6 0.0221995735234nh
R_RL2 6 2 -0.019749878536
L_L3 1 7 1.9368457422861nh
R_RL3 7 3 -9.380577856e-3
L_L4 1 8 1.3725139492098nh
R_RL4 8 4 -0.013823395635
L_L5 2 9 2.5943581782489nh
R_RL5 9 REF -0.017950300747
L_L6 2 10 1.9411212976818nh
R_RL6 10 3 -1.814773522e-3
L_L7 2 11 1.3816250152522nh
R_RL7 11 4 -4.80828336e-4
L_L8 3 12 4.5230735900736nh
R_RL8 12 REF -0.010573308033
L_L9 3 13 1.0999060448673nh
R_RL9 13 4 -4.120888085e-4
L_L10 4 14 3.9527488314056nh
R_RL10 14 REF -0.013729708727
Kn_K1 L_L1 L_L2 0.0784550947548
Kn_K2 L_L1 L_L5 0.9957388231426
Kn_K3 L_L1 L_L8 0.7561728538882
Kn_K4 L_L1 L_L10 0.8079548995557
Kn_K5 L_L2 L_L3 0.0432200780215
Kn_K6 L_L2 L_L4 0.0374912077201
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.063768974792
Kn_K9 L_L2 L_L7 -0.089391151886
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.015472562231
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6775619338857
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9942760653116
Kn_K16 L_L3 L_L7 0.6698456483118
Kn_K17 L_L3 L_L8 0.8777843070717
Kn_K18 L_L3 L_L9 -0.570111872409
Kn_K19 L_L3 L_L10 0.9378941970807
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6728059530225
Kn_K22 L_L4 L_L7 0.9919449872218
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2179483152059
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7555418533145
Kn_K27 L_L5 L_L10 0.8065221134823
Kn_K28 L_L6 L_L7 0.6786671508651
Kn_K29 L_L6 L_L8 0.8734683182111
Kn_K30 L_L6 L_L9 -0.567828998073
Kn_K31 L_L6 L_L10 0.9324056780879
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2191897805757
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3744138212052
Kn_K36 L_L8 L_L10 0.8722069688322
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_19 1 2 3 4 REF
C_C1 1 REF 29.950947139338pf
C_C2 1 3 14.455687998352pf
C_C3 2 4 43.877989084602pf
C_C4 3 REF 0.6831379652595pf
C_C5 4 REF 0.247126649499pf
R_R1 1 REF 74.335235087346
R_R2 1 2 -0.369429353703
R_R3 1 3 121.48289349319
R_R4 1 4 -32.21480480294
R_R5 2 REF -75.00632933962
R_R6 2 3 -121.9817771228
R_R7 2 4 32.322415114933
L_L1 1 5 2.0217814710456nh
R_RL1 5 REF -5.890049271e-3
L_L2 1 6 0.0136367113616nh
R_RL2 6 2 0.3553124760952
L_L3 1 7 1.5955937628914nh
R_RL3 7 3 0.1325435636076
L_L4 1 8 1.0640742179226nh
R_RL4 8 4 0.2322290664199
L_L5 2 9 2.0157300414852nh
R_RL5 9 REF 0.3619746895511
L_L6 2 10 1.6013556076032nh
R_RL6 10 3 0.0537257451205
L_L7 2 11 1.075203630143nh
R_RL7 11 4 0.0129871313549
L_L8 3 12 3.6119634765952nh
R_RL8 12 REF 0.1348255598039
L_L9 3 13 1.045596597203nh
R_RL9 13 4 0.0138796115658
L_L10 4 14 3.0878396105281nh
R_RL10 14 REF 0.2368055286192
Kn_K1 L_L1 L_L2 0.059286086519
Kn_K2 L_L1 L_L5 0.9966236153924
Kn_K3 L_L1 L_L8 0.7471603170631
Kn_K4 L_L1 L_L10 0.8095669455695
Kn_K5 L_L2 L_L3 0.0266929899885
Kn_K6 L_L2 L_L4 0.0104072352553
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.065635786293
Kn_K9 L_L2 L_L7 -0.102265195975
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.022475564842
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6193635124565
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9957360784779
Kn_K16 L_L3 L_L7 0.6131435416779
Kn_K17 L_L3 L_L8 0.8410459788804
Kn_K18 L_L3 L_L9 -0.610506701598
Kn_K19 L_L3 L_L10 0.9112944152094
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6172878539684
Kn_K22 L_L4 L_L7 0.9936390004616
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2436857767548
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7460919691474
Kn_K27 L_L5 L_L10 0.8073379681291
Kn_K28 L_L6 L_L7 0.6214765753814
Kn_K29 L_L6 L_L8 0.8370755503094
Kn_K30 L_L6 L_L9 -0.6073333173
Kn_K31 L_L6 L_L10 0.9057903072319
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2449524654921
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4038671861202
Kn_K36 L_L8 L_L10 0.8465305329321
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_20 1 2 3 4 REF
C_C1 1 2 229.6037862362pf
C_C2 1 4 2.5725914576935pf
C_C3 2 REF 2.1765710333262pf
C_C4 2 3 0.871491839492pf
C_C5 3 REF 0.5707290091538pf
C_C6 4 REF 0.5870707581719pf
R_R1 1 2 -28.55884994359
L_L1 1 5 40.350835170806nh
R_RL1 5 REF -1.99136728224
L_L2 1 6 0.1795983716321nh
R_RL2 6 2 0.0229071923503
L_L3 1 7 16.04125032818nh
R_RL3 7 3 -3.589146527e-3
L_L4 1 8 15.342262904796nh
R_RL4 8 4 -3.070897522e-3
L_L5 2 9 39.942981671228nh
R_RL5 9 REF -1.843188194407
L_L6 2 10 16.163739002082nh
R_RL6 10 3 0.0078567675761
L_L7 2 11 15.472814907845nh
R_RL7 11 4 0.0071551132647
L_L8 3 12 56.068186459493nh
R_RL8 12 REF -1.937178559938
L_L9 3 13 1.2804015815759nh
R_RL9 13 4 2.844058146e-5
L_L10 4 14 55.357843691455nh
R_RL10 14 REF -1.935902184273
Kn_K1 L_L1 L_L2 0.1091100700109
Kn_K2 L_L1 L_L5 0.9977761074639
Kn_K3 L_L1 L_L8 0.8449313918735
Kn_K4 L_L1 L_L10 0.8502149918515
Kn_K5 L_L2 L_L3 0.0168232368941
Kn_K6 L_L2 L_L4 0.0147734169209
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088650256004
Kn_K9 L_L2 L_L7 -0.093026450829
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9594394580904
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944304676154
Kn_K15 L_L3 L_L7 0.9535707527468
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.218378032489
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9542399724469
Kn_K21 L_L4 L_L7 0.9941806595222
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0655900249804
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8436308388033
Kn_K26 L_L5 L_L10 0.8488197711322
Kn_K27 L_L6 L_L7 0.9597566899023
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.21666280792
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0662185187679
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1174773498058
Kn_K35 L_L8 L_L10 0.9885290420333
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_21 1 2 3 4 REF
C_C1 1 REF 0.0611755732871pf
C_C2 1 2 60.331150447574pf
C_C3 1 4 0.7143543382143pf
C_C4 2 REF 0.9412017822006pf
C_C5 2 3 0.26680272529pf
C_C6 3 REF 0.5743246077742pf
C_C7 4 REF 0.5724010398609pf
R_R1 1 2 -260.121862067
L_L1 1 5 0.5963492708923nh
R_RL1 5 2 -0.276561497494
L_L2 1 6 59.903466988081nh
R_RL2 6 3 -0.070496594934
L_L3 1 7 59.05308693509nh
R_RL3 7 4 -0.068575875708
L_L4 2 8 60.625462002306nh
R_RL4 8 3 -0.516610778735
L_L5 2 9 59.782050583706nh
R_RL5 9 4 -0.509944020038
L_L6 3 10 1.2941410187737nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 -0.010510937624
Kn_K2 L_L1 L_L3 -0.011173493158
Kn_K3 L_L1 L_L4 -0.109627868034
Kn_K4 L_L1 L_L5 -0.110982035482
Kn_K5 L_L2 L_L3 0.9891461681668
Kn_K6 L_L2 L_L4 0.9950700843178
Kn_K7 L_L2 L_L5 0.9841468011108
Kn_K8 L_L2 L_L6 -0.121782123259
Kn_K9 L_L3 L_L4 0.9843467878359
Kn_K10 L_L3 L_L5 0.9950004298366
Kn_K11 L_L3 L_L6 0.0253808988678
Kn_K12 L_L4 L_L5 0.9892762608009
Kn_K13 L_L4 L_L6 -0.120661424949
Kn_K14 L_L5 L_L6 0.0256218142867
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_22 1 2 3 4 REF
C_C1 1 REF 0.3284037770329pf
C_C2 1 2 25.427572759588pf
C_C3 1 3 0.0130350203727pf
C_C4 1 4 0.3285903899766pf
C_C5 2 REF 0.6863062364213pf
C_C6 2 3 0.1405023716234pf
C_C7 3 REF 0.574658554955pf
C_C8 4 REF 0.5687128784109pf
L_L1 1 5 0.9202972023734nh
R_RL1 5 2 -0.027467960237
L_L2 3 6 1.296340299001nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_23 1 2 3 4 REF
C_C1 1 REF 0.424333330535pf
C_C2 1 2 13.566592864251pf
C_C3 1 3 0.0607500413683pf
C_C4 1 4 0.1965208485963pf
C_C5 2 REF 0.6056715745327pf
C_C6 2 3 0.0955233417337pf
C_C7 3 REF 0.574104740031pf
C_C8 4 REF 0.5667439438675pf
L_L1 1 5 1.282621768504nh
R_RL1 5 2 -7.977430791e-4
L_L2 3 6 1.2942715550846nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_24 1 2 3 4 REF
C_C1 1 REF 0.4645502824598pf
C_C2 1 2 8.7185806291921pf
C_C3 1 3 0.0856730828823pf
C_C4 1 4 0.141929758556pf
C_C5 2 REF 0.5815302102784pf
C_C6 2 3 0.0746135178972pf
C_C7 2 4 0.0289618448071pf
C_C8 3 REF 0.5725171857467pf
C_C9 4 REF 0.5644489604458pf
L_L1 1 5 1.729100057215nh
R_RL1 5 2 -1.660136991e-3
L_L2 3 6 1.2918476084622nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_25 1 2 3 4 REF
C_C1 1 REF 0.4874432478475pf
C_C2 1 2 6.7621599922085pf
C_C3 1 3 0.1037194845457pf
C_C4 1 4 0.1163124426333pf
C_C5 2 REF 0.5793380255596pf
C_C6 2 3 0.0614884467929pf
C_C7 2 4 0.0597654170947pf
C_C8 3 REF 0.5705384438934pf
C_C9 4 REF 0.5619430564741pf
L_L1 1 5 1.8880395559238nh
R_RL1 5 2 -3.806629968e-4
L_L2 3 6 1.2887543381593nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_26 1 2 3 4 REF
C_C1 1 REF 0.4976170517461pf
C_C2 1 2 6.3376113810446pf
C_C3 1 3 0.1156412303976pf
C_C4 1 4 0.1069247075809pf
C_C5 2 REF 0.5856838344274pf
C_C6 2 3 0.0534185722017pf
C_C7 2 4 0.0732345234877pf
C_C8 3 REF 0.5689875674485pf
C_C9 4 REF 0.560054005395pf
L_L1 1 5 1.9250850044642nh
R_RL1 5 2 6.1294143883e-5
L_L2 3 6 1.2874341604766nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param12_26

